US06245773B1
4-(3,4-Difluorophenyl)-6-methoxymethyl-2-oxo-3-[3-(4-phenyl-4-(furan-2-yl)piperidin-1-yl)propyl]carbamoyl-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid methyl ester
To a solution of 6-(3,4-difluorophenyl)-4-methoxymethyl-2-oxo-3,6-dihydro-2H-pyrimidine-1,5-dicarboxylic acid 5-methyl ester 1-(4-nitrophenyl)ester (20 mg, 0.04 mmol) in 2 ml of CH2Cl2 was added 3-(4-phenyl-4-furan-2-yl-piperidin-1-yl)-propylamine (12 mg, 0.04 mmol) and resulting solution was stirred for 2 h at 25° C. The reaction mixture was concentrated in vacuo to provide an oil which was subjected to column chromatography over silica gel (5% MeOH/CHCl3) to yield 22 mg (85%) of the desired product, which was converted to HCl salt and recrystallized from EtOAC-Et2O to afford 18 mg of the product as a white solid: mp 153-155° C.; Anal. Calc. For C33H36F2N4O6 requires C, 60.1; H, 5.46; N, 8.49. Found: C, 58.9; H, 5.53; 8.45.

reactant | 6-(3,4-difluorophenyl)-4-methoxymethyl-2-oxo-3,6-dihydro-2H-pyrimidine-1,5-dicarboxylic acid 5-methyl ester 1-(4-nitrophenyl)ester | 0.04 mmol, 20 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(NC(=C(C1C1=CC(=C(C=C1)F)F)C(=O)OC)COC)=O | C21H17F2N3O8
reactant | 3-(4-phenyl-4-furan-2-yl-piperidin-1-yl)-propylamine | 0.04 mmol, 12 mg | C1(=CC=CC=C1)C1(CCN(CC1)CCCN)C=1OC=CC1 | C18H24N2O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-(3,4-Difluorophenyl)-6-methoxymethyl-2-oxo-3-[3-(4-phenyl-4-(furan-2-yl)piperidin-1-yl)propyl]carbamoyl-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid methyl ester | 22 mg, 85% | COC(=O)C=1C(N(C(NC1COC)=O)C(NCCCN1CCC(CC1)(C=1OC=CC1)C1=CC=CC=C1)=O)C1=CC(=C(C=C1)F)F | C33H36F2N4O6
